US07495103B2
A mixture of (6-nitro-1H-indol-3-yl)-acetonitrile (B-9-a) (1.5 g, 74.5 mml) and 10% Pd—C (300 mg) in EtOH (50 mL) was stirred at room temperature under H2 (1 atm) for 5 h. Pd—C was removed via filtration and the filtrate was evaporated to give (6-amino-1H-indol-3-yl)-acetonitrile (B-9) (1.1 g, 90%). 1H NMR (DMSO-d6) δ 10.4 (br s, 1H), 7.18 (d, J=8.4 Hz, 3H), 6.94 (s, 1H), 6.52 (s, 1H), 6.42 (dd, J=8.4, 1.8 Hz, 1H), 4.76(s, 2H), 3.88 (s, 2H); ESI-MS 172.1 m/z (MH+).

reactant | (6-nitro-1H-indol-3-yl)-acetonitrile | 1.5 g | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)CC#N | C10H7N3O2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | (6-amino-1H-indol-3-yl)-acetonitrile | NC1=CC=C2C(=CNC2=C1)CC#N | C10H9N3
